US08835431B2
a. 2-Chloro-benzoic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 31a)
To a solution of (5-fluoro-pyridin-2-yl)-hydrazine (for reference procedure see WO 2010/022076, which is incorporated herein by reference; 1.0 g, 7.87 mmol) and 2-chloro-benzoyl chloride (1 mL, 7.87 mmol) in DCM (50 mL) was added dropwise DIPEA (2.74 mL, 15.75 mmol). The reaction mixture was stirred at RT for 1 h then washed with water. The organic layer was dried through a phase separator and then concentrated in vacuo to afford the title compound (1.95 g, 93%) as a brown solid. LCMS (Method 3): Rt 2.82 min, m/z 266 [MH+].

reactant | (5-fluoro-pyridin-2-yl)-hydrazine | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | 2-chloro-benzoyl chloride | 7.87 mmol, 1 mL | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | DIPEA | 15.75 mmol, 2.74 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-benzoic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 1.95 g, 93% | FC=1C=CC(=NC1)NNC(C1=C(C=CC=C1)Cl)=O | C12H9ClFN3O
